Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Naprosyn
 
Attending: ___.
 
Chief Complaint:
grade I endometrial adenocarcinoma
 
Major Surgical or Invasive Procedure:
Robotic-assisted total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy

 
History of Present Illness:
Ms. ___ is ___ who recently underwent a D and C 
with Dr. ___ postmenopausal bleeding and was found to 
have EIN.  On review of her pathology report here at the ___, 
small foci of
endometrial adenocarcinoma, endometrioid type FIGO grade I, who
was found arising in association with extensive endometrial
intraepithelial neoplasia involving an endometrial polyp.  She
had a Mirena IUD placed at the end of her procedure with Dr.
___.  Since her procedure, she has had episodes of fairly
significant vaginal bleeding; however, she has only been 
spotting
for the last seven days or so.

 
Past Medical History:
PMH: 
-Recent unprovoked and provoked lower extremity DVT and PE: DVT 
while taking OCPs in early 2000s, DVT/PE in ___, no hematologic 
workup per patient
-NIDDM2
-HTN
-HLD
-Chronic diastolic heart failure
-Hypothyroidism
-Fibromyalgia

PSH: 
-Bladder sling procedure ___
-D&C 
-Hand surgery
-Eye surgery

ObGyn: 
-G3P3
-Menarche: ___ years 
-Menopause: ___ years
-Pap smear: normal (___), remote history of abnormal Pap smears

 
Physical Exam:
General: NAD, A&Ox3
CV: RRR, no murmurs
RESP: CTAB, normal work of breathing
Abd: soft, appropriately tender, no rebound or guarding, port
dressings C/D/I
Incision: dressings clean, dry and intact
GU: minimal spotting on pad, foley out now by RN
Extremities: left leg with some tenderness to palpation, tense, 
?
lymphadema, pneumoboots on bilaterally
 
Pertinent Results:
___ 06:46AM BLOOD WBC-8.6 RBC-3.27* Hgb-9.8* Hct-31.4* 
MCV-96 MCH-30.0 MCHC-31.2* RDW-15.2 RDWSD-54.1* Plt ___
___ 06:46AM BLOOD Glucose-116* UreaN-11 Creat-1.0 Na-140 
K-4.5 Cl-99 HCO3-28 AnGap-13
___ 06:46AM BLOOD Calcium-8.5 Phos-3.4 Mg-1.9
 
Brief Hospital Course:
Ms. ___ was admitted to the GYN oncology service after 
undergoing a robotic assisted total laparoscopic hysterectomy 
and bilateral salpingo-oophorectomy for grade 1 endometrial 
adenocarcinoma.  Please see operative report for full details.

Immediately postoperatively, her pain was controlled with IV 
morphine and she was subsequently transitioned to oral , 
tramadol, Tylenol.  Her Foley catheter was removed and she 
voided spontaneously.  Her diet was advanced without difficulty.

For her history of DVT/PE on lifelong anticoagulation, she held 
her p.m. dose of Lovenox on the day prior to surgery.  Her 
therapeutic Lovenox was restarted on postoperative day 0.  She 
was discharged home with a plan to restart her warfarin on 
___, and present to ___ clinic for an INR on 
___.  This plan was discussed with her primary pulmonologist 
who manages her anticoagulation.

For her history of hypertension, diastolic heart failure, she 
was continued on spironolactone, Lasix, and 2 g salt 
restriction.  For her hypothyroidism she continued her 
levothyroxine.  For her type 2 diabetes, she resumed her 
metformin when tolerating PO.

By postoperative day 1, she was voiding without difficulty, 
ambulating independently, tolerating a regular diet, and 
requiring only oral pain medications.  She was discharged home 
in stable condition with close follow-up.
 
Medications on Admission:
Enoxaparin Sodium 120 mg SC Q12H  
Furosemide 40 mg PO BID  
Levothyroxine Sodium 50 mcg PO DAILY  
MetFORMIN (Glucophage) 1000 mg PO BID  
Spironolactone 50 mg PO BID  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID 
Do not exceed 2600mg in 24 hours 
RX *acetaminophen 650 mg 1 tablet(s) by mouth q6h prn Disp #*60 
Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth bid prn Disp 
#*60 Capsule Refills:*0 
3.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol [Ultram] 50 mg 0.5 (One half) tablet(s) by mouth 
every 6 hours Disp #*15 Tablet Refills:*0 
4.  Enoxaparin Sodium 120 mg SC Q12H  
5.  Furosemide 40 mg PO BID  
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  MetFORMIN (Glucophage) 1000 mg PO BID  
8.  Spironolactone 50 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endometrial cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

LOVENOX INSTRUCTIONS:
* Continue to take your lovenox 
* Start taking your warfarin (Coumadin) on ___ at 7.5mg 
daily. Also take your lovenox on ___. 
* Have your INR checked on ___. 
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 8 
weeks
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  
 
Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  

 
Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 
 
Followup Instructions:
___